data/mechanism_extracts/ChemSci/10.1039_d0sc05665k.json
{"doi": "10.1039_d0sc05665k", "journal": "ChemSci", "is_review": false, "rxn_class_summary": "Catalyst-free electrochemical [3+2] annulation of N-cyclopropylanilines with alkenes (styrenes) via a radical cation chain mechanism", "mechanism_family": ["radical_cation", "direct_SET", "cation_initiated"], "electrochemical_role": "Anodic oxidation of N-cyclopropylaniline (1a) to its aminium radical cation (1a+•) initiates a chain; cathode reduces the product radical cation (3a+•) only in initiation; propagation is via SET between 3a+• and 1a", "key_intermediates": [{"name": "N-cyclopropylaniline radical cation (1a+•)", "smiles": null, "role": "reactive"}, {"name": "ring-opened distonic radical cation (β-iminium carbon radical)", "smiles": null, "role": "transient"}, {"name": "cyclopentane-annulated product radical cation (3a+•)", "smiles": null, "role": "reactive"}, {"name": "neutral [3+2] annulation product 3a (N-aryl 2-arylcyclopentylamine)", "smiles": null, "role": "reactive"}], "electron_flow": "The anode oxidizes 1a to the aminium radical cation 1a+•, which undergoes cyclopropane ring-opening and addition to styrene 2a to give the cyclized radical cation 3a+•; 3a+• is then reduced by another molecule of 1a (chain propagation), regenerating 1a+• and releasing neutral product 3a, so only sub-stoichiometric current is needed.", "rate_determining_step": null, "probe_reagents": [{"name": "divided H-cell (frit-separated anode/cathode)", "smiles": null, "purpose": "intermediate_trap", "observation": "Product 3a (23% NMR yield) and [3a+H]+ detected only in the anode chamber, none in the cathode chamber — rules out cathodic reduction as the productive reduction step and supports the chain mechanism"}, {"name": "online EC/MS (sonic spray ionization)", "smiles": null, "purpose": "intermediate_trap", "observation": "Direct detection of 1a+• (m/z 161) upon applying +3.0 V, confirming anodic generation of the aminium radical cation"}, {"name": "catalytic current / Faradaic analysis", "smiles": null, "purpose": "redox_probe", "observation": "Only ~0.34 equiv of electrons consumed relative to 1a (32.4 C vs 96.5 C required for stoichiometric oxidation), consistent with a radical chain rather than stoichiometric electrolysis"}], "evidence_types_used": ["intermediate_trap_other", "isolation_of_intermediate", "kinetic_order", "on/off_light_or_current", "other"], "evidence_strength": "medium", "notes": "Authors explicitly translate a known photoredox (Ru(bpz)3) [3+2] annulation into a catalyst-free electrochemical version; alternative non-chain pathway (anodic oxidation + cathodic reduction of 3a+•) is considered but disfavored by the divided-cell experiment and the sub-stoichiometric charge consumption. Conditions: undivided RVC(+)/Pt(–) cell, LiOTf/MeCN, 1 mA constant current."}
